US08022208B2
4-{1-[2-(Dimethylamino)ethyl]-2-oxo-1,2-dihydropyridin-3-yl}benzoic acid (1.46 g) was suspended in dichloroethane (15 ml), dimethylformamide (125 μL) was added, and oxalyl chloride (367 μL) was dropwise added dropwisely at room temperature. After stirring at room temperature for 30 minutes, the reaction mixture was evaporated under reduced pressure. A dichloromethane (10 ml)-pyridine (10 ml) solution of 2-amino-3-nitrophenol (499 mg) was added to the resulting residue, followed by stirring overnight at room temperature. The reaction suspension was filtered, and the filtrate was evaporated under reduced pressure. The substance collected by filtration and the filtration residue were dissolved in a mixed solvent of ethanol (14.6 mL)-water (14.6 mL), and an aqueous 1 M hydrochloric acid solution (3.24 mL) and iron (904 mg) were added, followed by heating under reflux for 3 hours. An aqueous saturated sodium hydrogencarbonate solution and chloroform were added to the reaction suspension, followed by vigorous stirring and filtration through Celite. The filtrate was extracted with chloroform, the organic layer was evaporated under reduced pressure, and the residue was purified by NH-silica gel column chromatography (chloroform:methanol=100:0 to 95:5) to obtain N-(2-amino-6-hydroxyphenyl)-4-{1-[2-(dimethylamino)ethyl]-2-oxo-1,2-dihydropyridin-3-yl}benzamide (600 mg) as a brown solid.

reactant | 4-{1-[2-(Dimethylamino)ethyl]-2-oxo-1,2-dihydropyridin-3-yl}benzoic acid | 1.46 g | CN(CCN1C(C(=CC=C1)C1=CC=C(C(=O)O)C=C1)=O)C | C16H18N2O3
reactant | dimethylformamide | 125 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 367 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloroethane | 15 ml | ClC(C)Cl | C2H4Cl2
product | N-(2-amino-6-hydroxyphenyl)-4-{1-[2-(dimethylamino)ethyl]-2-oxo-1,2-dihydropyridin-3-yl}benzamide | 600 mg | NC1=C(C(=CC=C1)O)NC(C1=CC=C(C=C1)C=1C(N(C=CC1)CCN(C)C)=O)=O | C22H24N4O3
